US08877815B2
Synthesis of (S)-2-amino-3-(biphenyl-4-yl)-N-methylpropanamide
To a solution of (S)-tert-butyl 3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-ylcarbamate (111 mg, 0.31 mmol) in DCM (4 mL) was added TFA (2 mL). The mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated and azeotroped (three times) with toluene and dried under high vacuum. The obtained (S)-2-amino-3-(biphenyl-4-yl)-N,N-methylpropanamide TFA salt (80 mg) was used for next step without further purification. HPLC retention time=1.21 minutes (condition B); MS (m+1)=255.0; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.48 (d, J=1.8 Hz, 3H) 2.90-3.24 (m, 2H) 4.04-4.48 (m, 1H) 7.10 (d, J=8.3 Hz, 2H) 7.20 (d, J=7.3 Hz, 1H) 7.26 (t, J=7.5 Hz, 2H) 7.37 (d, J=7.6 Hz, 4H) 8.16 (br. s., 2H).

reactant | (S)-tert-butyl 3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-ylcarbamate | 0.31 mmol, 111 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)NC)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H26N2O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-3-(biphenyl-4-yl)-N-methylpropanamide | N[C@H](C(=O)NC)CC1=CC=C(C=C1)C1=CC=CC=C1 | C16H18N2O
